US04672066
8-(4-Acetyl-3-hydroxy-2-propylphenoxy)octanoic acid was allowed to react with 3-pyridine butanamine according to procedure A and the product was purified by high performance liquid chromatography (HPLC) to give 8-(4-acetyl-3-hydroxy-2-propylphenoxy)-N-[4-(3-pyridinyl)butyl]octanamide, the title compound, mp 48°-51° (from ether-hexane) in 83% yield.

reactant | 8-(4-Acetyl-3-hydroxy-2-propylphenoxy)octanoic acid | C(C)(=O)C1=C(C(=C(OCCCCCCCC(=O)O)C=C1)CCC)O | C19H28O5
reactant | 3-pyridine butanamine | N1=CC(=CC=C1)CCCCN | C9H14N2
product | 8-(4-acetyl-3-hydroxy-2-propylphenoxy)-N-[4-(3-pyridinyl)butyl]octanamide | C(C)(=O)C1=C(C(=C(OCCCCCCCC(=O)NCCCCC=2C=NC=CC2)C=C1)CCC)O | C28H40N2O4
